US07074800B1
Nitrogen was bubbled through a mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (114 mg, 0.34 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (141 mg, 1.02 mmol), 5-hydroxy-4-nitroindole (60.5 mg, 0.34 mmol) and DMA (8.5 ml) for 5 minutes at ambient temperature. This mixture was then stirred at 90° C. for 4 hours under an atmosphere of nitrogen and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated in vacuo. The residue was purified by silica column chromatography using gradient elution with dichloromethane/methanol (100/0 to 95/5) followed by dichloromethane/methanolic ammonia (7M) (95/5) to give a partially purified oil. This oil was further purified by silica column chromatography, gradient elution with ethyl acetate/methanolic ammonia (95/5 to 80/20) to give 6-methoxy-(4-nitroindol-5-yloxy)-7-(3-piperidinopropoxy)quinazoline (63 mg, 39%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.34 mmol, 114 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 1.02 mmol, 141 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-4-nitroindole | 0.34 mmol, 60.5 mg | OC=1C(=C2C=CNC2=CC1)[N+](=O)[O-] | C8H6N2O3
solvent | DMA | 8.5 ml | CC(=O)N(C)C | C4H9NO
product | 6-methoxy-(4-nitroindol-5-yloxy)-7-(3-piperidinopropoxy)quinazoline | 63 mg, 39% | COC=1C=C2C=NC(=NC2=CC1OCCCN1CCCCC1)OC=1C(=C2C=CNC2=CC1)[N+](=O)[O-] | C25H27N5O5
